US05210092
To a solution of 2-butyrylamino-4,6-dimethyl-3-nitropyridine (2.49 g) in dimethylformamide (12.5 ml) was added sodium hydride (441 mg) in an ice-water bath. The mixture was stirred at room temperature for an hour, and a solution of 1-(4-methanesulfonyloxymethylphenyl)-5-methylpyrrole-2-carbonitrile (3.05 g) in dimethylformamide (15 ml) was dropwise therein. The reaction mixture was stirred at room temperature for 5.5 hours and was stood overnight. The separated oil was extracted with ethyl acetate. The extract were washed with brine, dried, and concentrated in vacuo. The residue was purified by flash column chromatography eluted by n-hexane/ethyl acetate (1/1) to give 2-[N-butyryl-N-[4-(2-cyano-5-methyl-1-pyrrolyl)benzyl]amino]-4,6-dimethyl-3-nitropyridine (2.75 g) as oil.

reactant | 2-butyrylamino-4,6-dimethyl-3-nitropyridine | 2.49 g | C(CCC)(=O)NC1=NC(=CC(=C1[N+](=O)[O-])C)C | C11H15N3O3
reactant | sodium hydride | 441 mg | [H-].[Na+]
reactant | 1-(4-methanesulfonyloxymethylphenyl)-5-methylpyrrole-2-carbonitrile | 3.05 g | CS(=O)(=O)OCC1=CC=C(C=C1)N1C(=CC=C1C)C#N | C14H14N2O3S
solvent | dimethylformamide | 12.5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-[N-butyryl-N-[4-(2-cyano-5-methyl-1-pyrrolyl)benzyl]amino]-4,6-dimethyl-3-nitropyridine | 2.75 g | C(CCC)(=O)N(CC1=CC=C(C=C1)N1C(=CC=C1C)C#N)C1=NC(=CC(=C1[N+](=O)[O-])C)C | C24H25N5O3
